US05236698
A mixture of fine zinc powder (60 g), ethanol (250 ml), ammonium chloride (2 g) and water (20 ml) is heated to the reflux temperature and the paranitrobenzylidenecamphor (20 g, 0.07 mol) is added in portions with stirring. The mixture is allowed to reflux for half an hour, the zinc is filtered and the mixture is rinsed with alcohol. The filtrate is poured in ice (500 g). The precipitate obtained is filtered, washed with water and dried under vacuum. A quantitative yield of para-aminobenzylidenecamphor (17.7 g) is obtained. It is recrystallised in ethanol to give the expected derivative:

reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | ammonium chloride | 2 g | [Cl-].[NH4+]
reactant | paranitrobenzylidenecamphor | 0.07 mol, 20 g | [N+](=O)([O-])C1=CC=C(C=C2C(C3(CCC2C3(C)C)C)=O)C=C1 | C17H19NO3
catalyst | zinc | 60 g | [Zn] | Zn
solvent | water | 20 ml | O | H2O
product | para-aminobenzylidenecamphor | 17.7 g, quantitative yield | NC1=CC=C(C=C2C(C3(CCC2C3(C)C)C)=O)C=C1 | C17H21NO
